US06756385B2
This reaction was carried out using the procedure for Preparation 1 with cis-3-phenylcyclobutylamine (J. Med. Pharm. Chem 1960, 2, 687-691; ACIEE 1981, 20, 879-880) and 1,4-dinitroimidazole to afford 46 mg (46% yield) of 4-nitro-1-(cis-3-phenyl-cyclobutyl)-1H-imidazole; 1H NMR (300 MHz, CDCl3) δ7.9 (s, 1H), 7.55 (s, 1H), 7.4-7.2 (m, 5H), 4.73 (m, 1H), 3.48 (m, 1H), 3.12 (m, 2H), 2.54 (m, 2H); MS (AP/Cl): 244 (M+H)+.

reactant | cis-3-phenylcyclobutylamine | C1(=CC=CC=C1)[C@H]1C[C@H](C1)N | C10H13N
reactant | 1,4-dinitroimidazole | [N+](=O)([O-])N1C=NC(=C1)[N+](=O)[O-] | C3H2N4O4
product | 4-nitro-1-(cis-3-phenyl-cyclobutyl)-1H-imidazole | 46 mg, 46% yield | [N+](=O)([O-])C=1N=CN(C1)[C@@H]1C[C@@H](C1)C1=CC=CC=C1 | C13H13N3O2
